US05030270
N-(β-Ethylsulfonylethyl)-n-butylamine
A solution of 15.7 g of chloroethyl ethyl sulfone in 50 ml of toluene is added dropwise within 10 min to a solution of 73 g of n-butylamine and 10.1 g of triethylamine in 100 ml of toluene at an internal temperature of 50° C. The mixture is stirred at 50° C. for 5 h and allowed to cool to room temperature, the precipitate is filtered off with suction, and the filtrate is concentrated in a rotary evaporator. The remaining yellow oil (18.7 g) is reacted without further purification.

reactant | chloroethyl ethyl sulfone | 15.7 g | C(C)S(=O)(=O)CCCl | C4H9ClO2S
reactant | n-butylamine | 73 g | C(CCC)N | C4H11N
reactant | triethylamine | 10.1 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | N-(β-Ethylsulfonylethyl)-n-butylamine | C(C)S(=O)(=O)CCNCCCC | C8H19NO2S
